US07947712B2
To a stirring solution of [8-(benzyloxy)-5-chloroquinolin-7-yl]acetaldehyde (10.54 mmol) in tetrahydrofuran (75 mL) at −78° C. was slowly added a 0.25M solution of [3-(1-pyrrolidinylmethyl)phenyl]magnesium bromide in tetrahydrofuran (12.50 mmol, 1.2 eq.) and stirring at −78° C. was continued for 20 min. The reaction mixture was then quenched with saturated aqueous ammonium chloride solution (10 mL) and allowed to warm to room temperature. The mixture was then diluted with saturated aqueous ammonium chloride solution (65 mL) and extracted with ethyl acetate (2×75 mL). The combined organic layers were dried (MgSO4), filtered and concentrated to give a yellow oil that was purified by column chromatography using 70/29/1 dichloromethane/acetone/diisopropylethylamine to give 2-(8-benzyloxy-5-chloro-quinolin-7-yl)-1-(3-pyrrolidin-1-ylmethyl-phenyl)-ethanol as a white solid which was used directly in the next step. 2-(8-benzyloxy-5-chloro-quinolin-7-yl)-1-(3-pyrrolidin-1-ylmethyl-phenyl)-ethanol (5.34 mmol) was subjected to the general conditions described above for conversion of alcohols to azides to give 7-[2-azido-2-(3-pyrrolidin-1-ylmethyl-phenyl)-ethyl]-8-benzyloxy-5-chloro-quinoline as an amber oil that was used directly in the ensuing step. 7-[2-azido-2-(3-pyrrolidin-1-ylmethyl-phenyl)-ethyl]-8-benzyloxy-5-chloro-quinoline (5.34 mmol) was subjected to the general conditions described above for Staudinger reduction of azides to give 2-(8-benzyloxy-5-chloro-quinolin-7-yl)-1-(3-pyrrolidin-1-ylmethyl-phenyl)-ethylamine as an amber oil that was used directly in the ensuing step. 2-(8-benzyloxy-5-chloro-quinolin-7-yl)-1-(3-pyrrolidin-1-ylmethyl-phenyl)-ethylamine (0.701 mmol) and phenoxyacetyl chloride (0.771 mmol, 1.1 eq.) were subjected to the general procedure described above (Alternate General Procedure for N-Acylations) to give the crude product obtained as an off-white solid that was purified by recrystallization from dichloromethane/ether to give N-[2-(8-benzyloxy-5-chloro-quinolin-7-yl)-1-(3-pyrrolidin-1-ylmethyl-phenyl)-ethyl]-2-phenoxy-acetamide as a light tan solid. N-[2-(8-benzyloxy-5-chloro-quinolin-7-yl)-1-(3-pyrrolidin-1-ylmethyl-phenyl)-ethyl]-2-phenoxy-acetamide was subjected to the general procedure described above for TMSI-mediated O-benzyl deprotection. After stirring 16 h at 70° C., 1,2-dichloroethane (2 mL) was added and the reaction was stirred 5 h at 70° C. after which time the reaction was quenched and worked up as described above. Crude product obtained was a brown oil that was purified by preparative scale HPLC to give the trifluoroacetate salt of the title compound as a yellow solid (0.109 mmol, 9% for 5 steps). MS (ESI) m/z 516.2052; HRMS: calcd for C30H30ClN3O3+H+, 516.20485; found (ESI, [M+H]+ Obs'd), 516.2052.

reactant | 2-(8-benzyloxy-5-chloro-quinolin-7-yl)-1-(3-pyrrolidin-1-ylmethyl-phenyl)-ethylamine | 0.701 mmol | C(C1=CC=CC=C1)OC=1C(=CC(=C2C=CC=NC12)Cl)CC(C1=CC(=CC=C1)CN1CCCC1)N | C29H30ClN3O
reactant | phenoxyacetyl chloride | 0.771 mmol, 1.1 eq. | O(C1=CC=CC=C1)CC(=O)Cl | C8H7ClO2
product | N-[2-(8-benzyloxy-5-chloro-quinolin-7-yl)-1-(3-pyrrolidin-1-ylmethyl-phenyl)-ethyl]-2-phenoxy-acetamide | C(C1=CC=CC=C1)OC=1C(=CC(=C2C=CC=NC12)Cl)CC(C1=CC(=CC=C1)CN1CCCC1)NC(COC1=CC=CC=C1)=O | C37H36ClN3O3
